US04560691
A-6. 6-Methyl-5-(4-nitrobenzoyl)-2(1H)-pyridinone
m.p. 282°-284° C., 5.0 g, was obtained following the procedure described in Example A-2 using 20 g of 3-(4-nitrophenyl)-1-methyl-3-oxo-1-propenamine, 9.5 ml of methyl propiolate and 100 ml of dimethylformamide.

reactant | 3-(4-nitrophenyl)-1-methyl-3-oxo-1-propenamine | 20 g | [N+](=O)([O-])C1=CC=C(C=C1)C(C=C(N)C)=O | C10H10N2O3
reactant | methyl propiolate | 9.5 ml | C(C#C)(=O)OC | C4H4O2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 6-Methyl-5-(4-nitrobenzoyl)-2(1H)-pyridinone | CC1=C(C=CC(N1)=O)C(C1=CC=C(C=C1)[N+](=O)[O-])=O | C13H10N2O4
